US08466282B2
Tert-butyl (3′R,5′S)-5′-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-2-oxo-1,3′-bipiperidine-1′-carboxylate
tert-Butyl (3R,5S)-3-amino-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (150 mg) was dissolved in THF (3 ml), diisopropylethylamine (74 μl) and 5-bromovaleryl chloride (42 μl) were added at 0° C. and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in THF (10 ml), potassium tert-butoxide (96 mg) was added at 0° C. and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, the residue was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (1:3-1:0) was concentrated under reduced pressure to give the object product (150 mg).

reactant | tert-Butyl (3R,5S)-3-amino-5-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 150 mg | N[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1CCCCOC)C1=CC=CC=C1)C(=O)OC(C)(C)C | C28H44N6O4
reactant | diisopropylethylamine | 74 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-bromovaleryl chloride | 42 μl | BrCCCCC(=O)Cl | C5H8BrClO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Tert-butyl (3′R,5′S)-5′-[{[5-(4-methoxybutyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-2-oxo-1,3′-bipiperidine-1′-carboxylate | 150 mg | COCCCCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)N1C(CCCC1)=O)CC(C)C | C33H50N6O5
